** sch_path: /foss/designs/03_super_long_wave/2026_sscs_gf180/designs/libs/core_analog/trans_gate/trans_gate.sch
.subckt trans_gate VDD VSS A ENB Y EN
*.PININFO VDD:I VSS:I Y:O A:I EN:I ENB:I
M1 A ENB Y VDD pfet_03v3 L=0.28u W=60u nf=1
M2 A EN Y VSS nfet_03v3 L=0.28u W=20u nf=1
.ends
